US06541504B1
N-[3-(5-Chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide
To a solution of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (56.5 mg, 0.189 mmol) and N,N-diisopropylethylamine (98.8 μL, 0.567 mmol) in 2.5 mL THF was added acetyl chloride (13.4 μL, 0.189 mmol). After stirring at room temperature for 3 h, the mixture was filtered and rinsed with isopropanol and hexanes/EtOAc (7:3) to give the title compound (46.9 mg, 73%) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 0.189 mmol, 56.5 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | N,N-diisopropylethylamine | 0.567 mmol, 98.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.189 mmol, 13.4 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | N-[3-(5-Chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 46.9 mg, 73% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC=C(C=C12)NC(C)=O | C18H13ClN2O3
